US06544985B2
4-[7-Chloro-8-(cyclopropyl-methyl-amino)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-pyridine-2-carbonitrile
The title compound was prepared from [2-amino-4-chloro-5-(cyclopropyl-methyl-amino)-phenyl]-carbamic acid tert.-butyl ester (Example J11) (150 mg, 0.5 mmol) and 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester (Example K3) (150 mg, 0.61 mmol) according to the general procedure M. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (69 mg).

reactant | [2-amino-4-chloro-5-(cyclopropyl-methyl-amino)-phenyl]-carbamic acid tert.-butyl ester | 0.5 mmol, 150 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C1CC1)Cl)N)=O | C15H22ClN3O2
reactant | 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester | 0.61 mmol, 150 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[7-Chloro-8-(cyclopropyl-methyl-amino)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-pyridine-2-carbonitrile | ClC1=CC2=C(N=C(CC(N2)=O)C2=CC(=NC=C2)C#N)C=C1N(C)C1CC1 | C19H16ClN5O
